US07485732B2
Step 2: 3-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-3-(3,5-difluorophenyl)propanenitrile
The reaction mixture of 51 mg (0.114 mmol) of 2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)ethanol, 24 mg (0.137 mmol) of methanesulfonic anhydride, 14 mg (0.285 mmol) of sodium cyanide and 11 uL (0.137 mmol) pyridine in 5 mL of acetonitrile was stirred for 12 h at rt, and then concentrated. The residue was purified by silica gel chromatography with hexanes/ethyl acetate to the title compound; 1NMR(CDCl3) δ 3.29 (s, 2H), 3.96 (s, 2H), 4.01 (s, 2H), 4.54 (s, 1H), 6.69-6.75 (m, 3H), 7.29-6-7.7.38 (m, 8H); Mass Spectrum: m/e=455 (M+1 35Cl, 35Cl) and 457 (M+1 35Cl, 37Cl).

reactant | 2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)ethanol | 0.114 mmol, 51 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=C(CO)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C24H19Cl2F2NO
reactant | methanesulfonic anhydride | 0.137 mmol, 24 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | sodium cyanide | 0.285 mmol, 14 mg | [C-]#N.[Na+]
reactant | pyridine | 0.137 mmol, 11 uL | N1=CC=CC=C1 | C5H5N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-3-(3,5-difluorophenyl)propanenitrile | ClC1=CC=C(C=C1)C(N1CC(C1)=C(CC#N)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C25H18Cl2F2N2
